US07169761B2
Methyl iodide (0.17 ml) and potassium carbonate (0.4 g) were added to a solution of 4-methyl-3-[(2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-[(benzyloxy)methyl]-tetrahydro-2H-pyran-2-yl]benzoic acid (1.5 g) in DMF (10 ml) at room temperature and the mixture was stirred for three hours. The insoluble matter was separated by filtration and the filtrate was diluted with ethyl acetate. The diluted solution was washed with water and saturated brine in that order and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated. The residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to obtain methyl 4-methyl-3-[(2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-[(benzyloxy)methyl]-tetrahydro-2H-pyran-2-yl]benzoate (1.3 g).

reactant | Methyl iodide | 0.17 ml | CI | CH3I
reactant | potassium carbonate | 0.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methyl-3-[(2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-[(benzyloxy)methyl]-tetrahydro-2H-pyran-2-yl]benzoic acid | 1.5 g | CC1=C(C=C(C(=O)O)C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C42H42O7
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 4-methyl-3-[(2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-[(benzyloxy)methyl]-tetrahydro-2H-pyran-2-yl]benzoate | 1.3 g | CC1=C(C=C(C(=O)OC)C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C43H44O7
